US08431695B2
Preparation of tert-butyl 3-[4-amino-5-(2-benzyl-2H-indazol-6-yl)pyrrolo[2,1-f][1,2,4]triazin-7-yl]hexahydropyrazino[2,1-c][1,4]oxazine-8(1H)-carboxylate
To a stirred solution of tert-butyl 3-(4-amino-5-bromopyrrolo[2,1-f][1,2,4]triazin-7-yl)hexahydropyrazino[2,1-c][1,4]oxazine-8(1H)-carboxylate (1.50 g, 3.31 mmol) and tetrakis(triphenylphosphine)palladium(0) (764 mg, 0.66 mmol), in degassed 1,4-dioxane (15 mL) and DMF (15 mL) was added 2-benzyl-6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-2H-indazole (1.33 g, 3.97 mmol), K2CO3 (1.10 g, 7.94 mmol), and H2O (3.9 mL). The mixture was degassed and heated (100° C.) for 17 h and then cooled to rt. The mixture was partitioned between ethyl acetate (250 mL) and saturated aqueous K2CO3 solution (200 mL). The layers were separated and the organic phase was washed, dried (Na2SO4), and concentrated to dryness. The residue was purified by recrystallization from acetonitrile to obtain 750 mg (39%) of the desired product. 1H-NMR (DMSO-d6) 8.53 (s, 1H), 7.91 (s, 1H), 7.79 (d, 1H), 7.57 (s, 1H), 7.35-7.28 (m, 5H), 7.11 (d, 1H), 6.71 (s, 1H), 5.64 (s, 2H), 5.14-5.10 (m, 1H), 3.88-3.71 (m, 3H), 3.33-3.26 (m, 2H), 3.03-2.99 (m, 1H), 2.89-2.69 (m, 2H), 2.42-2.38 (m, 1H), 2.12-2.08 (m, 2H), 1.38 (s, 9H); LC-MS [M+H]+=581, RT=2.57 min.

reactant | tert-butyl 3-(4-amino-5-bromopyrrolo[2,1-f][1,2,4]triazin-7-yl)hexahydropyrazino[2,1-c][1,4]oxazine-8(1H)-carboxylate | 3.31 mmol, 1.50 g | NC1=NC=NN2C1=C(C=C2C2CN1C(CO2)CN(CC1)C(=O)OC(C)(C)C)Br | C18H25BrN6O3
reactant | DMF | 15 mL | CN(C)C=O | C3H7NO
reactant | 2-benzyl-6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-2H-indazole | 3.97 mmol, 1.33 g | C(C1=CC=CC=C1)N1N=C2C=C(C=CC2=C1)B1OC(C(O1)(C)C)(C)C | C20H23BN2O2
reactant | K2CO3 | 7.94 mmol, 1.10 g | C(=O)([O-])[O-].[K+].[K+]
solvent | 1,4-dioxane | 15 mL | O1CCOCC1 | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.66 mmol, 764 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | H2O | 3.9 mL | O | H2O
product | tert-butyl 3-[4-amino-5-(2-benzyl-2H-indazol-6-yl)pyrrolo[2,1-f][1,2,4]triazin-7-yl]hexahydropyrazino[2,1-c][1,4]oxazine-8(1H)-carboxylate | 750 mg, 39% | NC1=NC=NN2C1=C(C=C2C2CN1C(CO2)CN(CC1)C(=O)OC(C)(C)C)C=1C=CC2=CN(N=C2C1)CC1=CC=CC=C1 | C32H36N8O3
